US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (220 mg, 0.844 mmol) and 1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxylic acid (223 mg, 1.097 mmol). The product was triturated with acetonitrile. Yield 153 mg (40%). 1H-NMR (400 MHz; CDCl3): δ 1.26 (d, 3H), 1.45 (s, 3H), 2.59 (s, 1H), 4.28-4.45 (m, 2H), 4.55-4.64 (m, 1H), 6.62 (d, 1H), 7.16 (d, 1H), 7.19 (d, 1H), 7.52 (d, 1H), 7.67 (d, 1H), 7.75 (t, 1H), 7.80 (m, 1H), 7.89 (d, 1H), 8.12 (d, 1H), 8.21 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.844 mmol, 220 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxylic acid | 1.097 mmol, 223 mg | CC1=CC=CC(=N1)N1C=NC(=C1)C(=O)O | C10H9N3O2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(6-methylpyridin-2-yl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C1=NC(=CC=C1)C | C23H20ClN7O
